US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(4-hydroxyphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(4-hydroxyphenyl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide, the title compound was prepared. Chromatography with dichloromethane:methanol followed by conversion to the hydrochloride salt gave a white solid; mp 144°-160° C.; MS: 511; NMR (CD3OD): 1.8-2.2 (m, 6), 27 (s, 3), 2.8-3.3 (m, 5), 3.4-3.9 (m, 3), 6.7 (d, J=8, 2), 7.0-7.2 (m, 5), 7.3-7.6 (m, 5); [α]D =-36.8°, c=1.06 (methanol). Analysis for C29H32Cl2N2O2 ·1.0 HCl·0.5 H2O: Calculated: C, 62.54; H, 6.15; N, 5.03; Found: C, 62.16; H, 6.20; N, 4.74.

reactant | 4-(4-hydroxyphenyl)piperidine | OC1=CC=C(C=C1)C1CCNCC1 | C11H15NO
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | H2O | O | H2O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(4-hydroxyphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=CC=C(C=C1)O | InChI=1S/C29H32Cl2N2O2.ClH/c1-32(29(35)23-5-3-2-4-6-23)20-25(24-9-12-27(30)28(31)19-24)15-18-33-16-13-22(14-17-33)21-7-10-26(34)11-8-21;/h2-12,19,22,25,34H,13-18,20H2,1H3;1H/t25-;/m1./s1
